US06660744B1
A solution of 2,6-difluorobenzonitrile (5.18 g, 37.26 mmol) in dimethylformamide (100 mL) was treated with p-thiocresol (4.628 g, 37.26 mmol) and potassium carbonate (10.28 g, 74.52 mmol). The reaction mixture was stirred for 24 h under a nitrogen atmosphere. Water (150 mL) and ethyl acetate (250 mL) were added to the reaction mixture. The layers were partitioned and the aqueous layer was extracted with ethyl acetate (500 mL). The combined organic layers were washed with water (1 L), dried over magnesium sulfate, filtered and evaporated under reduced pressure. The crude product was purified by flash chromatography on silica gel, eluting 7:1 heptane:ethyl acetate. The column afforded 3.341 g (37%) of 2-fluoro-6-[(4-methylphenyl)sulfanyl]benzonitrile. 1H NMR (DMSO-d6, 400 MHz) δ 7.66-7.61 (m, 1H), 7.47-7.45 (m, 2H), 7.36-7.32 (m, 3H), 6.83-6.79 (m, 1H), 2.36 (s, 3H); HPLC Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 8.04 min (93%).

reactant | 2,6-difluorobenzonitrile | 37.26 mmol, 5.18 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | p-thiocresol | 37.26 mmol, 4.628 g | CC1=CC=C(C=C1)S | C7H8S
reactant | potassium carbonate | 74.52 mmol, 10.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 150 mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-6-[(4-methylphenyl)sulfanyl]benzonitrile | 3.341 g, 37% | FC1=C(C#N)C(=CC=C1)SC1=CC=C(C=C1)C | C14H10FNS
